US07157488B2
2-(7-Trifluoromethyl-1H-indol-3-yl)-ethylamine
Combine in a 500 mL round bottom flask equipped with magnetic stirring, (2-trifluoromethyl-phenyl)-hydrazine (5.0 g, 28.4 mmol) and 4-aminobutyraldehyde dimethyl acetal (4.54 g, 34.1 mmol) and stir. After 5 minutes, slowly add 1N HCl (200 mL) and heat the reaction to 85° C. for 2 hours forming an orange-red colored solution. Increase the temperature to 100° C. for 10 minutes and cool to room temperature. Pour the reaction mixture over ice and stir for 10 minutes followed by adjustment to pH ˜10 with ammonium hydroxide. Extract the mixture with methylene chloride, pool the organic phases, dry over sodium sulfate, and concentrate in vacuo to give a dark orange-brown oil. Purification on a pre-packed, HMDS treated silica column using a step gradient of 9% to 17% methanol in methylene chloride gives the pure title compound as an orange oil: 1H NMR (400 MHz, dmso-d6): 11.18 (br s, 1H), 7.82 (d, 1H, J=7.6 Hz), 7.40 (d, 1H, J=7.2 Hz), 7.24 (d, 1H, J=2.0 Hz), 7.13 (t, 1H, J=7.6 Hz) 2.76–2.83 (m, 4H). MS (APCI): m/e 229.0 (M+1), 212.0 (M-NH2).

reactant | (2-trifluoromethyl-phenyl)-hydrazine | 28.4 mmol, 5.0 g | FC(C1=C(C=CC=C1)NN)(F)F | C7H7F3N2
reactant | 4-aminobutyraldehyde dimethyl acetal | 34.1 mmol, 4.54 g | COC(CCCN)OC | C6H15NO2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | HCl | 1N, 200 mL | Cl | ClH
product | 2-(7-Trifluoromethyl-1H-indol-3-yl)-ethylamine | FC(C=1C=CC=C2C(=CNC12)CCN)(F)F | C11H11F3N2
